US07220862B2
(±)-2-(Di-tert-butoxycarbonylamino)-3-(4-hydroxy-piperidin-1-yl)-propionic acid methyl ester
To a solution of 2-(di-tert-butoxycarbonylamino)-acrylic acid methyl ester (1.0 g, 3.0 mmol) in acetonitrile (10 mL) was added piperidin-4-ol (0.33 g, 1.1 equiv). A gentle stream of nitrogen was placed over the reaction while it stirred overnight. The crude oil which resulted was dissolved in ethyl acetate, washed with water, then brine, dried over magnesium sulfate, and concentrated to give 1.38 g (quant.) as an oil which was used without purification. Mass spec.: 403.42 (MH)+.

reactant | 2-(di-tert-butoxycarbonylamino)-acrylic acid methyl ester | 3.0 mmol, 1.0 g | COC(C(=C)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O | C14H23NO6
reactant | piperidin-4-ol | 0.33 g, 1.1 equiv | N1CCC(CC1)O | C5H11NO
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (±)-2-(Di-tert-butoxycarbonylamino)-3-(4-hydroxy-piperidin-1-yl)-propionic acid methyl ester | COC(C(CN1CCC(CC1)O)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O | C19H34N2O7
